US07888366B2
To a cooled (15° C.) and stirred solution of tin (II) chloride (0.4 g, 1.73 mmol) and conc. hydrochloric acid (1.2 mL) was added a solution of 2-(3-chlorophenoxymethyl)-6-nitrobenzonitrile (100.0 mg, 0.35 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 3 hours. The reaction mixture was poured on to crushed-ice and potassium hydroxide solution, stirred, extracted with dichloromethane, filtered and dried. Purification by silica gel chromatography (dichloromethane) yielded 38 mg of 2-amino-6-(3-chlorophenoxymethyl)benzonitrile.

reactant | tin (II) chloride | 1.73 mmol, 0.4 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 1.2 mL | Cl | ClH
reactant | 2-(3-chlorophenoxymethyl)-6-nitrobenzonitrile | 0.35 mmol, 100.0 mg | ClC=1C=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=CC1 | C14H9ClN2O3
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-6-(3-chlorophenoxymethyl)benzonitrile | 38 mg | NC1=C(C#N)C(=CC=C1)COC1=CC(=CC=C1)Cl | C14H11ClN2O
